US07420066B2
To a solution of (6-Bromo-pyridin-2-yl)-methanol (20.0 g, 106.37 mmol) in N,N-dimethylformamide (200 mL) at 0° C. was added triethylamine (22.2 mL, 159.55 mmol) followed by methanesulfonyl chloride (9.24 mL, 117.01 mmol). The reaction was allowed to stand for 3 hours at which time the reaction was deemed complete. Water was added to the mixture and the entire mixture was extracted with a mixture of 1:1 AcOEt/Hexanes. The combined organic extracts were dried over magnesium sulfate and concentrated in vacuo. The crude material (23400 mg) was dissolved in acetonitrile (50 mL) and potassium cyanide (8311 mg, 127.64 mmol) and 18-crown-6 (14057 mg, 53.18 mmol) were added to the solution. The mixture was heated at reflux for 5 h then cooled to room temperature. The volatiles were removed under reduced pressure and the crude material was dissolved in AcOEt and washed with a saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and the solvents were removed under reduced pressure. The crude residue was purified by column chromatography eluted with a gradient of 10 to 60% AcOEt/hexanes to give (6-Bromo-pyridin-2-yl)-acetonitrile as a brown solid (12290 mg, 59%). MS ES (MH+197.1/199.1).

reactant | (6-Bromo-pyridin-2-yl)-methanol | 106.37 mmol, 20.0 g | BrC1=CC=CC(=N1)CO | C6H6BrNO
reactant | triethylamine | 159.55 mmol, 22.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 117.01 mmol, 9.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium cyanide | 127.64 mmol, 8311 mg | [C-]#N.[K+]
reactant | 18-crown-6 | 53.18 mmol, 14057 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (6-Bromo-pyridin-2-yl)-acetonitrile | 12290 mg, 59% | BrC1=CC=CC(=N1)CC#N | C7H5BrN2
